US04370335
N-[6-(2-Methyl-1,3-dioxolan-2-yl)hexyl]phthalimide
A mixture of 142.0 g (0.52 mole) of N-(7-oxooctyl)phthalimide, 60 ml of ethylene glycol, 5.80 g of p-toluenesulfonic acid and 290 ml of benzene was refluxed overnight using a Dean-Stark trap to collect the azeotrope. The reaction was cooled, treated with 2 N NaOH solution, the organic layer separated, dried over anhydrous potassium carbonate, filtered and stripped to give 125.25 g of orange oil, 76% pure by gc (SE-30, 90°-280°@16°/min).

reactant | N-(7-oxooctyl)phthalimide | 0.52 mole, 142.0 g | O=C(CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C16H19NO3
reactant | ethylene glycol | 60 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 5.80 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 290 ml | C1=CC=CC=C1 | C6H6
product | N-[6-(2-Methyl-1,3-dioxolan-2-yl)hexyl]phthalimide | 125.25 g | CC1(OCCO1)CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C18H23NO4
